US04025630
5,5-Dimethyl-10-[4-(morpholino)butyryloxy]-8-(3,4-difluorophenyl-n-pentyl)-2-methyl-1,2,3,4-tetrahydro-5H[1]benzopyrano[3,4-d]pyridine hydrochloride
5,5-Dimethyl-10-hydroxy-8-(3,4-difluorophenyl-n-pentyl)-1,2,3,4-tetrahydro-5H[1]benzopyrano[3,4-d]pyridine, γ-morpholino-butyric acid hydrochloride and dicyclohexylcarbodiimide are combined in equimolar amounts in methylene chloride and reacted as in Example 7 to give the desired product.

reactant | 5,5-Dimethyl-10-hydroxy-8-(3,4-difluorophenyl-n-pentyl)-1,2,3,4-tetrahydro-5H[1]benzopyrano[3,4-d]pyridine | CC1(OC2=C(C(=CC(=C2)CCCCCC2=CC(=C(C=C2)F)F)O)C2=C1CCNC2)C | C25H29F2NO2
reactant | γ-morpholino-butyric acid hydrochloride | Cl.O1CCN(CC1)CCCC(=O)O
reactant | dicyclohexylcarbodiimide | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 5,5-Dimethyl-10-[4-(morpholino)butyryloxy]-8-(3,4-difluorophenyl-n-pentyl)-2-methyl-1,2,3,4-tetrahydro-5H[1]benzopyrano[3,4-d]pyridine hydrochloride | Cl.CC1(OC2=C(C(=CC(=C2)CCCCCC2=CC(=C(C=C2)F)F)OC(CCCN2CCOCC2)=O)C2=C1CCN(C2)C)C | InChI=1S/C34H44F2N2O4.ClH/c1-34(2)27-13-15-37(3)23-26(27)33-30(41-32(39)10-7-14-38-16-18-40-19-17-38)21-25(22-31(33)42-34)9-6-4-5-8-24-11-12-28(35)29(36)20-24;/h11-12,20-22H,4-10,13-19,23H2,1-3H3;1H
